US04737500
(a) 4-Methyl-1-(4-trifluoromethyl-2-thiazolyl)-piperazine
To a solution of 33.9 g 1-bromo-3,3,3-trifluoro-2-propanone in 300 ml of absolute ethanol are added 28.6 g 4-methyl-1-piperazinylthiocarboxamide. The mixture is refluxed for 4 hours, evaporated to dryness and the residue partitioned between ethyl ether and aqueous NaOH. The ether phase is washed, dried and evaporated, whereby the title compound is obtained, m.p. 62° (ethyl acetate/hexane).

reactant | 1-bromo-3,3,3-trifluoro-2-propanone | 33.9 g | BrCC(C(F)(F)F)=O | C3H2BrF3O
reactant | 4-methyl-1-piperazinylthiocarboxamide | 28.6 g | CN1CCN(CC1)C(=S)N | C6H13N3S
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 4-Methyl-1-(4-trifluoromethyl-2-thiazolyl)-piperazine | CN1CCN(CC1)C=1SC=C(N1)C(F)(F)F | C9H12F3N3S
